US08912186B2
By a procedure similar to that of example 1.4, starting from commercial 4-methoxy-1,2-phenylenediamine and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5-methoxy-2-benzimidazolyl)butanoic acid•HCl was obtained as light red solid, provided that cyclisation of the crude glutaramic acid was carried out with HCl in 1,4-dioxane at reflux for 1.5 h.

reactant | 4-methoxy-1,2-phenylenediamine | COC1=CC(=C(C=C1)N)N | C7H10N2O
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5-methoxy-2-benzimidazolyl)butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)OC.Cl | InChI=1S/C18H17ClN2O3.ClH/c1-24-14-6-7-15-16(10-14)21-17(20-15)8-12(9-18(22)23)11-2-4-13(19)5-3-11;/h2-7,10,12H,8-9H2,1H3,(H,20,21)(H,22,23);1H
